US05136080
c. Preparation of 2,4-Diamino-5-(2,4-dichloro-5-nitrophenyl)-6-methylpyrimidine
Finely ground potassium nitrate (6.5 g 64 mmol) was added to a solution of 2,4-diamino-5-(2,4-dichlorophenyl)-6-methyl pyrimidine (17.23 g, 64 mmol) in concentrated sulphuric acid (150 ml). This mixture was stirred at room temperature for 90 minutes. The reaction mixture was then added to sodium bicarbonate and ice. The product was extracted with ethyl acetate. After the ethyl acetate was removed, a yellow solid was obtained (30.86 g). A portion of this crude product (7.0 g) was passed through a silica flash chromatography column and eluted with ethyl acetate to give the pure product (4.81 g).

reactant | potassium nitrate | 64 mmol, 6.5 g | [N+](=O)([O-])[O-].[K+]
reactant | 2,4-diamino-5-(2,4-dichlorophenyl)-6-methyl pyrimidine | 64 mmol, 17.23 g | NC1=NC(=C(C(=N1)N)C1=C(C=C(C=C1)Cl)Cl)C | C11H10Cl2N4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulphuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 2,4-Diamino-5-(2,4-dichloro-5-nitrophenyl)-6-methylpyrimidine | 4.81 g | NC1=NC(=C(C(=N1)N)C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)Cl)C | C11H9Cl2N5O2
